US07087605B2
7-(1-Benzoyl-4-piperidinyl)-5-ethyl-2-phenylimidazo[5,1-f][1,2,4]triazin-4(3H)-one
In analogy to the procedure for Example 103 Step (b), 30 mg (0.09 mmol) 5-ethyl-2-phenyl-7-(4-piperidinyl)imidazo[5,1-f][1,2,4]triazin-4(3H)-one, 14 mg (0.10 mmol) benzoyl chloride are stirred at room temperature overnight, proportionate amounts of the solvents are used.

reactant | 5-ethyl-2-phenyl-7-(4-piperidinyl)imidazo[5,1-f][1,2,4]triazin-4(3H)-one | 0.09 mmol, 30 mg | C(C)C=1N=C(N2N=C(NC(C21)=O)C2=CC=CC=C2)C2CCNCC2 | C18H21N5O
reactant | benzoyl chloride | 0.10 mmol, 14 mg | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
product | 7-(1-Benzoyl-4-piperidinyl)-5-ethyl-2-phenylimidazo[5,1-f][1,2,4]triazin-4(3H)-one | C(C1=CC=CC=C1)(=O)N1CCC(CC1)C1=NC(=C2C(NC(=NN21)C2=CC=CC=C2)=O)CC | C25H25N5O2
